US07943607B2
4-Fluoro-2-hydroxybenzamide
DMF (2 drops) was added to a mixture of 4-fluorosalicylic acid (5 g, 32.0 mmol) and oxalyl chloride (7.11 mL, 80.1 mmol) in THF (35 mL). The mixture was stirred for 2 hours then reduced in vacuo. The residue was dissolved in THF (20 mL) and added dropwise to concentrated ammonium hydroxide solution (30 mL) at 0° C. The reaction was stirred at RT for 20 hours and the THF removed in vacuo. The residue was acidified and a white solid was filtered off. The solid was dissolved in ethyl acetate (80 mL) and the solution washed with water (50 mL), saturated sodium bicarbonate solution (50 mL), dried (MgSO4), and reduced in vacuo to give the desired compound as a yellow solid (2.4 g).

reactant | 4-fluorosalicylic acid | 32.0 mmol, 5 g | FC=1C=C(C(C(=O)O)=CC1)O | C7H5FO3
reactant | oxalyl chloride | 80.1 mmol, 7.11 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonium hydroxide | 30 mL | [OH-].[NH4+]
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-Fluoro-2-hydroxybenzamide | 2.4 g | FC1=CC(=C(C(=O)N)C=C1)O | C7H6FNO2
